US06506773B2
1-tert-Butoxycarbonyl-3-bromopiperidin-4-one
NBS (1.4 g) was added to a solution of 1-tert-butoxycarbonyl-1,2,3,6-tetrahydro-4-(trimethylsilyloxy)pyridine (2 g) in acetonitrile and the mixture was stirred at room temperature for 30 minutes. The solution was diluted with ethyl acetate(50 ml) and washed with water (50 ml), sodium bicarbonate solution (50 ml) and brine (50 ml), dried (MgSO4) and evaporated to give the title compound as a colourless solid (1.8 g).

reactant | NBS | 1.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 1-tert-butoxycarbonyl-1,2,3,6-tetrahydro-4-(trimethylsilyloxy)pyridine | 2 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)O[Si](C)(C)C | C13H25NO3Si
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-tert-Butoxycarbonyl-3-bromopiperidin-4-one | 1.8 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)Br | C10H16BrNO3
